US05753665
A mixture of 7-ethyl-1,2,4-triazolo[1,5-a]pyrimidine (10.5 g), N-bromosuccinimide (12.63 g), dibenzoylperoxide (0.3 g) and tetrachloromethane (270 ml) was heated under reflux for 5 hours with stirring. The mixture was filtered and a crude product was obtained by evaporation of the solvent from the filtrate. This was purified by recrystallisation from tetrachloromethane to give 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine. Yield 10.8 g.

reactant | 7-ethyl-1,2,4-triazolo[1,5-a]pyrimidine | 10.5 g | C(C)C1=CC=NC=2N1N=CN2 | C7H8N4
reactant | N-bromosuccinimide | 12.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoylperoxide | 0.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 270 ml | ClC(Cl)(Cl)Cl | CCl4
product | 7-(1-bromoethyl)-1,2,4-triazolo[1,5-a]pyrimidine | BrC(C)C1=CC=NC=2N1N=CN2 | C7H7BrN4
